US08476434B2
Synthesis of N-(3-Isopropyl-phenyl)-4-methyl-3-[3-(2-methylamino-pyrimidin-4-yl)-5-pyrrolidin-1-yl-pyridin-2-yloxy]-benzamide
The title compound was prepared using the procedure of Harris et. al. [Organic Letters 2002, 4 (17), 2885-2888.]: In a N2-flushed sealing tube, 3-[5-Chloro-3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-N-(3-isopropyl-phenyl)-4-methyl-benzamide (100 mg, 0.21 mmol), pyrrolidine (0.022 mL, 0.26 mmol), Pd2(dba)3 (5.1 mg, 0.0055 mmol), and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (5.2 mg, 0.13 mmol) were combined. The tube was flushed with argon, and 1 M Li(TMS)2 in THF (Aldrich, 0.67 ml) was added. The sealed tube was heated at 70° C. for 20 h. 1 N HCl was added, the mixture was stirred 5 minutes, then saturated aqueous NaHCO3 was added. After extraction, the organic layer was dried over Na2SO4. After concentration, the residue was purified by HPLC (Gilson, acidic mobile phase), desalted by aqueous NaHCO3/EtOAc extraction, and purified by flash chromatography (2:1 to 1:1 hexanes/EtOAc. The resulting solid was triturated with a small amount of t-BuOMe to provide the product. MS m/z=523 [M+H]+. Calc'd for C31H34N6O2: 522.65.

reactant | 3-[5-Chloro-3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-N-(3-isopropyl-phenyl)-4-methyl-benzamide | 0.21 mmol, 100 mg | ClC=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C)C1=NC(=NC=C1)NC | C27H26ClN5O2
reactant | pyrrolidine | 0.26 mmol, 0.022 mL | N1CCCC1 | C4H9N
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.13 mmol, 5.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | Pd2(dba)3 | 0.0055 mmol, 5.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-Isopropyl-phenyl)-4-methyl-3-[3-(2-methylamino-pyrimidin-4-yl)-5-pyrrolidin-1-yl-pyridin-2-yloxy]-benzamide | C(C)(C)C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)OC1=NC=C(C=C1C1=NC(=NC=C1)NC)N1CCCC1)=O | C31H34N6O2
